US04182776
p-{[2-(p-Bromophenoxy)ethyl]amino}benzoic acid
A mixture of 10.0 g of ethyl p-{[2-(p-bromophenoxy)-ethyl]amino}benzoate, 10 g of potassium hydroxide and 100 ml of ethanol-water (9:1) is refluxed for 3.5 hours. The mixture is acidified while hot with concentrated hydrochloric acid, diluted with water, chilled and filtered. The solid is washed with water to give crystals, mp 190°-192° C. Recrystallization from ethanol (500 ml) gives white crystals, mp 194°-196° C.

reactant | ethyl p-{[2-(p-bromophenoxy)-ethyl]amino}benzoate | 10.0 g | BrC1=CC=C(OCCNC2=CC=C(C(=O)OCC)C=C2)C=C1 | C17H18BrNO3
reactant | potassium hydroxide | 10 g | [OH-].[K+]
reactant | ethanol water | 100 ml | C(C)O.O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | p-{[2-(p-Bromophenoxy)ethyl]amino}benzoic acid | BrC1=CC=C(OCCNC2=CC=C(C(=O)O)C=C2)C=C1 | C15H14BrNO3
